US07186716B2
5-Nitro-3-(1H-pyrrol-2-yl)-1H-indazole
A mixture of (2-chloro-5-nitro-phenyl)-(1H-pyrrol-2-yl)-methanone (600 mg) and hydrazine hydrate (0.5 mL) in toluene (20 mL) and DMF (3 mL) was heated at 120° C. for 2 hours. The reaction was concentrated, the residue was washed with water and recrystallized to give 0.42 g (77%) of the titled compound as an orange solid.

reactant | (2-chloro-5-nitro-phenyl)-(1H-pyrrol-2-yl)-methanone | 600 mg | ClC1=C(C=C(C=C1)[N+](=O)[O-])C(=O)C=1NC=CC1 | C11H7ClN2O3
reactant | hydrazine hydrate | 0.5 mL | O.NN
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 5-Nitro-3-(1H-pyrrol-2-yl)-1H-indazole | 0.42 g, 77% | [N+](=O)([O-])C=1C=C2C(=NNC2=CC1)C=1NC=CC1 | C11H8N4O2
